US05506190
N-(2-Fluoro-4-chloro-5-cyclopentyloxyphenyl)-3,4,5,6-tetrahydroisophthalimide (1.00 g, 2.75 mmol), 1-(4-chlorophenyl)-1-methylpropylamine (0.760 g, 4.14 mmol), N-methylmorpholine (0.310 g, 3.06 mmol) and benzene (15 ml) as a solvent were placed into a round bottom flask (50 cc) and stirred overnight at room temperature. After completion of the reaction, the reaction mixture was poured into 2N hydrochloric acid (30 ml), and the mixture was extracted with ethyl acetate (30 ml×3 portions). After drying the organic layer over anhydrous magnesium sulfate, the drying agent was removed, and the solvent was distilled off under reduced pressure. The resulting crude product was recrystallized from ethyl acetate/acetone to obtain N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)-N'-(1-(4-chlorophenyl)-1-methylpropyl}-3,4,5,6-tetrahydrophthalamide as white crystals (0.298 g, 19.8% yield).

reactant | N-(2-Fluoro-4-chloro-5-cyclopentyloxyphenyl)-3,4,5,6-tetrahydroisophthalimide | 2.75 mmol, 1.00 g | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)N1C(C2=CC(C1=O)CCC2)=O | C19H19ClFNO3
reactant | 1-(4-chlorophenyl)-1-methylpropylamine | 4.14 mmol, 0.760 g | ClC1=CC=C(C=C1)C(CC)(C)N | C10H14ClN
reactant | N-methylmorpholine | 3.06 mmol, 0.310 g | CN1CCOCC1 | C5H11NO
reactant | hydrochloric acid | 2N, 30 ml | Cl | ClH
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | N-(2-fluoro-4-chloro-5-cyclopentyloxyphenyl)-N'-(1-(4-chlorophenyl)-1-methylpropyl}-3,4,5,6-tetrahydrophthalamide | 0.298 g, 19.8% yield | FC1=C(C=C(C(=C1)Cl)OC1CCCC1)NC(C1=C(C(=O)NC(CC)(C)C2=CC=C(C=C2)Cl)CCCC1)=O | C29H33Cl2FN2O3
